US05773451
a) 2,3-Dimethyl-4-(3-hydroxypropylthio)pyridine N-oxide
6 g (60% pure) of NaOH are added in portions to 50 ml of dry N-methylpyrrolidone (NMP), the mixture is stirred for 15 min, 9.5 g (0.11 mol) of 3-hydroxypropyl mercaptan are metered in over a period of 20 min. and the mixture is stirred again for 30 min. until the evolution of gas has ended. A solution of 14.4 g (0.1 mol) of 4-chloro-2,3-dimethylpyridine N-oxide in 100 ml of NMP is then added dropwise in the course of 20 min. and the reaction mixture is stirred at room temperature for 1 hour, subsequently at 70° C. for 1 hour and thereafter at 100° C. for a further hour.

reactant | NaOH | 6 g | [OH-].[Na+]
reactant | 3-hydroxypropyl mercaptan | 0.11 mol, 9.5 g | OCCCS | C3H8OS
reactant | 4-chloro-2,3-dimethylpyridine N-oxide | 0.1 mol, 14.4 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | NMP | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2,3-Dimethyl-4-(3-hydroxypropylthio)pyridine N-oxide | CC1=[N+](C=CC(=C1C)SCCCO)[O-] | C10H15NO2S
